US05128355
A solution of 3.15 g of 1-[(2'-carbomethoxybiphenyl-4yl)methyl]-2-butyl-4-chloro-5-(2-methoxyethoxymethoxymethyl)imidazole and 2.77 g of potassium methanethiolate in 125 mL of dimethylformamide was stirred at 125° for 4 hours. After cooling the solvent was removed in vacuo, and the residue was dissolved in water. The resulting aqueous solution was washed with diethyl ether, adjusted to pH 3 employing 10% hydrochloric acid, and extracted with methylene chloride. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated. The crude product was recrystallized from chlorobutane to afford 2.45 g of 1-[(2'-carboxybiphenyl-4-yl)methyl]-2-butyl-4-chloro-5-(2-methoxyethoxymethoxymethyl)imidazole. NMR (200 MHz, CDCl3) δ 7.95 (d, 1H); 7.57 (t, 1H); 7.46 (t, 1H); 7.38 (m, 3H); 7.05 (d, 2H); 5.22 (s, 2H); 4.64 (s, 2H); 4.48 (s, 2H); 3.58 (m, 4H); 3.40 (s, 3H); 2.54 (t, 2H); 1.60 (quint., 2H); 1.32 (sext., 2H); 0.84 (t, 3H).

reactant | 1-[(2'-carbomethoxybiphenyl-4yl)methyl]-2-butyl-4-chloro-5-(2-methoxyethoxymethoxymethyl)imidazole | 3.15 g | C(=O)(OC)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1COCOCCOC)Cl)CCCC | C27H33ClN2O5
reactant | potassium methanethiolate | 2.77 g | C[S-].[K+]
solvent | dimethylformamide | 125 mL | CN(C=O)C | C3H7NO
product | 1-[(2'-carboxybiphenyl-4-yl)methyl]-2-butyl-4-chloro-5-(2-methoxyethoxymethoxymethyl)imidazole | 2.45 g | C(=O)(O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1COCOCCOC)Cl)CCCC | C26H31ClN2O5
